US08629271B2
To a solution of diisopropylamine (5.42 mL) in dry THF (30 mL) under argon at 0° C. was added 2.5M n-butyl lithium (15.5 mL) slowly, keeping the temperature below 10° C. The solution was stirred at 0° C. for 30 minutes before cooling to −78° C. Ethyl propionate (4.01 mL) was added dropwise and the solution stirred at −78° C. for 1 hour. 1,7-dibromoheptane (6.63 mL) was added and stirring continued at −78° C. for 1 hour then the cooling bath was removed and the reaction mixture was stirred at room temperature overnight. Saturated aqueous ammonium chloride (30 mL) was added to the reaction followed by ethyl acetate (30 mL). The layers were separated and the aqueous phase was extracted with ethyl acetate (2×30 mL). The organics were combined, washed with saturated aqueous sodium bicarbonate solution (50 mL), brine (50 mL), dried over sodium sulfate and evaporated. Purification was by silica gel chromatography eluting with 1-5% ethyl acetate in petroleum ether (40-60° C.) to give ethyl 9-bromo-2-methylnonanoate, which was used without further purification. This material (0.84 g) was dissolved in dry ether (27 mL) and cooled to 0° C. under argon. Diisobutylaluminium hydride (1M in toluene, 6.7 mL) was added dropwise and the reaction was stirred at 0° C. for 1 h 15 minutes. The reaction was quenched by addition of saturated aqueous potassium sodium tartrate and the resulting mixture was stirred for 15 minutes. Ethyl acetate (60 mL) and water (20 mL) were added and the phases separated. The aqueous layer was extracted with ethyl acetate (3×30 mL) then the combined organics were washed with brine, dried over sodium sulfate, filtered and evaporated. Purification was by silica gel chromatography eluting with 0 to 10% ethyl acetate in cyclohexane to afford the subtitled compound as a colourless oil. Yield 0.23 g.

reactant | diisopropylamine | 5.42 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.5M, 15.5 mL | C(CCC)[Li]
reactant | Ethyl propionate | 4.01 mL | C(CC)(=O)OCC | C5H10O2
reactant | 1,7-dibromoheptane | 6.63 mL | BrCCCCCCCBr | C7H14Br2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 9-bromo-2-methylnonanoate | BrCCCCCCCC(C(=O)OCC)C | C12H23BrO2
